### PR TITLE
Add Erdős Problem 746 (Hamiltonicity of random graphs), link the formal proof

### LINKED ISSUE #6421: Erdős Problem 746
### What is the Erdős problem?

https://www.erdosproblems.com/746

Is it true that, almost surely, a random graph on $n$ vertices with $\geq (\tfrac{1}{2}+\epsilon)n\log n$ edges is Hamiltonian?

Status: proved (Pósa; Korshunov; Komlós–Szemerédi [KoSz83]). A formal proof exists in plby/lean-proofs (`Erdos746.erdos_746`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6421.

### What changed
Adds `FormalConjectures/ErdosProblems/746.lean` with `probability n m P`, the probability that the uniform random graph `G(n, m)` (labelled graphs on `n` vertices with exactly `m` edges) satisfies `P`:
- `erdos_746` (`research solved`, `answer(True)`): for every `ε > 0` and every edge-count sequence `m n ≥ (1/2 + ε) n log n` (eventually, and `≤ n.choose 2`), `P(G(n, m n) Hamiltonian) → 1`.
- `variants.komlos_szemeredi` (sorry'd): the limit law `e^{-e^{-2c}}` at `½ n log n + ½ n log log n + c n + o(n)` edges.

The main statement is linked to plby/lean-proofs `Erdos746.erdos_746` (Codex and GPT-5.6 Sol; 30 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos746.erdos_746` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms. plby samples `m`-subsets of the edge set of `K_n`; the bridge shows `s ↦ fromEdgeSet s` is a bijection onto the graphs with `m` edges, so both probabilities are the same ratio of counts:

<details>
<summary>Bridge</summary>

```lean
open Filter Real Topology SimpleGraph

namespace Bridge746

variable {n m : ℕ}

lemma edgeFinset_card_graph [Fintype ((⊤ : SimpleGraph (Fin n)).edgeSet)]
    (G : Erdos746Plby.FixedEdgeGraph n m) [DecidableRel (Erdos746Plby.FixedEdgeGraph.graph G).Adj] :
    (Erdos746Plby.FixedEdgeGraph.graph G).edgeFinset.card = m := by
  rw [← Set.ncard_coe_finset, coe_edgeFinset]
  exact Erdos746Plby.FixedEdgeGraph.ncard_edgeSet_graph G

lemma exists_graph_eq (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] (hG : G.edgeFinset.card = m) :
    ∃ s : Erdos746Plby.FixedEdgeGraph n m, Erdos746Plby.FixedEdgeGraph.graph s = G := by
  classical
  let s : Finset (Erdos746Plby.Edge n) :=
    G.edgeFinset.subtype (· ∈ (⊤ : SimpleGraph (Fin n)).edgeFinset)
  have hfilter : G.edgeFinset.filter (· ∈ (⊤ : SimpleGraph (Fin n)).edgeFinset) = G.edgeFinset :=
    Finset.filter_true_of_mem fun e he => edgeFinset_subset_edgeFinset.2 le_top he
  have hs : s.card = m := by
    rw [Finset.card_subtype, hfilter, hG]
  refine ⟨⟨s, hs⟩, ?_⟩
  show Erdos746Plby.graphOfEdges s = G
  unfold Erdos746Plby.graphOfEdges Erdos746Plby.edgeEmbedding
  rw [Finset.subtype_map, hfilter, coe_edgeFinset, fromEdgeSet_edgeSet]

lemma probability_eq (P : SimpleGraph (Fin n) → Prop) :
    Erdos746.probability n m P = Erdos746Plby.uniformProbability
      (fun G : Erdos746Plby.FixedEdgeGraph n m => P (Erdos746Plby.FixedEdgeGraph.graph G)) := by
  classical
  unfold Erdos746.probability Erdos746Plby.uniformProbability
  have key : ∀ Q : SimpleGraph (Fin n) → Prop,
      (Finset.univ.filter fun G : SimpleGraph (Fin n) ↦ G.edgeFinset.card = m ∧ Q G) =
        (Finset.univ.filter fun s : Erdos746Plby.FixedEdgeGraph n m =>
          Q (Erdos746Plby.FixedEdgeGraph.graph s)).image Erdos746Plby.FixedEdgeGraph.graph := by
    intro Q
    ext G
    simp only [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_image]
    constructor
    · rintro ⟨hm, hQ⟩
      obtain ⟨s, rfl⟩ := exists_graph_eq G hm
      exact ⟨s, hQ, rfl⟩
    · rintro ⟨s, hQ, rfl⟩
      exact ⟨edgeFinset_card_graph s, hQ⟩
  have key' : (Finset.univ.filter fun G : SimpleGraph (Fin n) ↦ G.edgeFinset.card = m) =
      (Finset.univ : Finset (Erdos746Plby.FixedEdgeGraph n m)).image
        Erdos746Plby.FixedEdgeGraph.graph := by
    have := key fun _ => True
    simpa only [and_true, Finset.filter_true] using this
  rw [key P, key', Finset.card_image_of_injective _ Erdos746Plby.FixedEdgeGraph.graph_injective,
    Finset.card_image_of_injective _ Erdos746Plby.FixedEdgeGraph.graph_injective, Finset.card_univ]

theorem erdos_746 : True ↔ ∀ ε : ℝ, 0 < ε → ∀ m : ℕ → ℕ,
    (∀ᶠ n : ℕ in atTop, (1 / 2 + ε) * n * log n ≤ m n) → (∀ᶠ n : ℕ in atTop, m n ≤ n.choose 2) →
      Tendsto (fun n ↦ Erdos746.probability n (m n) IsHamiltonian) atTop (𝓝 1) := by
  refine ⟨fun _ ε hε m h1 h2 => ?_, fun _ => trivial⟩
  simp only [probability_eq]
  exact Erdos746Plby.erdos_746 ε hε m h1 h2

end Bridge746
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«746»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/746.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+open Filter Real Topology SimpleGraph
+
+namespace Erdos746
+
+open scoped Classical in
+/-- The probability that the random graph `G(n, m)`, chosen uniformly among the labelled graphs
+on `n` vertices with exactly `m` edges, satisfies `P`. -/
+noncomputable def probability (n m : ℕ) (P : SimpleGraph (Fin n) → Prop) : ℝ :=
+  ((Finset.univ.filter fun G : SimpleGraph (Fin n) ↦ G.edgeFinset.card = m ∧ P G).card : ℝ) /
+    (Finset.univ.filter fun G : SimpleGraph (Fin n) ↦ G.edgeFinset.card = m).card
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/746.lean:51]: probability for G(n,m): random-graph probability defined ad hoc twice in this batch (see [#6403](https://github.com/google-deepmind/formal-conjectures/pull/6403)), best to have something for it in FormalConjecturesForMathlib
